US08445530B2
Acetic acid 3-(2-hydroxy-ethyl)-phenyl ester
2-(3-Hydroxyphenyl)ethanol (400 mg, 2.90 mmol) was dissolved in a mixture of 4 ml of dioxane and 4 ml of water, and sodium hydrogencarbonate (2.43 g, 29 mmol) was added followed by acetic anhydride (2.96 g, 29 mmol) with ice cooling. The mixture was stirred overnight at room temperature and then partitioned between 2 N hydrochloric acid and EA. The aqueous phase was extracted with EA, the combined organic phases were dried over sodium sulfate and evaporated to dryness to yield the crude title compound which was used without further purification.

reactant | 2-(3-Hydroxyphenyl)ethanol | 2.90 mmol, 400 mg | OC=1C=C(C=CC1)CCO | C8H10O2
reactant | sodium hydrogencarbonate | 29 mmol, 2.43 g | C(O)([O-])=O.[Na+]
reactant | acetic anhydride | 29 mmol, 2.96 g | C(C)(=O)OC(C)=O | C4H6O3
solvent | dioxane | 4 ml | O1CCOCC1 | C4H8O2
solvent | water | 4 ml | O | H2O
product | Acetic acid 3-(2-hydroxy-ethyl)-phenyl ester | OCCC=1C=C(C=CC1)OC(C)=O | C10H12O3
